US05932601
Sodium borohydride (1.41 g) was added portionwise, at 0° C., to a solution of 4-acetyl-5-methyl-2-phenyloxazole (15.0 g) in ethanol (100 ml). The mixture was stirred for 1 hour at the same temperature, and then for 1 hour at room temperature. The reaction mixture was poured into water, which was neutralized with 2N HCl to obtain 1-(5-methyl-2-phenyl-4-oxazolyl)ethanol (13.0 g, 86%), which was recrystallized from ethyl acetate-hexane to give colorless prisms, m.p.101-102° C.

reactant | Sodium borohydride | 1.41 g | [BH4-].[Na+]
reactant | 4-acetyl-5-methyl-2-phenyloxazole | 15.0 g | C(C)(=O)C=1N=C(OC1C)C1=CC=CC=C1 | C12H11NO2
reactant | water | O | H2O
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(5-methyl-2-phenyl-4-oxazolyl)ethanol | 13.0 g, 86% | CC1=C(N=C(O1)C1=CC=CC=C1)C(C)O | C12H13NO2
